US08193199B2
A mixture of (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione (0.2000 g, 0.5388 mmol), 2,3-difluorobenzeneboronic acid (0.09358 g, 0.5926 mmol), tetrakis(triphenylphosphine)palladium (0.03113 g, 0.02694 mmol), and sodium carbonate anhydrous (0.2855 g, 2.694 mmol) in acetonitrile-water (3:1) (5.200 mL, 0.5387 mmol) was stirred at 85° C. After 19 h, the mixture was cooled to room temperature and partitioned between CH2Cl2 (30 mL) and 2 N HCl (30 mL). The organic layer was washed with brine (50 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to give 2-(((S)-1-(8-chloro-2-(2,3-difluorophenyl)quinolin-3-yl)ethyl)carbamoyl)benzoic acid as a yellow foam type solid: LC-MS (ESI) m/z 467.0 [M+H]+.

reactant | (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 0.5388 mmol, 0.2000 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C19H12Cl2N2O2
reactant | 2,3-difluorobenzeneboronic acid | 0.5926 mmol, 0.09358 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate anhydrous | 2.694 mmol, 0.2855 g | C(=O)(O)O | CH2O3
reactant | acetonitrile water | 0.5387 mmol, 5.200 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.02694 mmol, 0.03113 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(((S)-1-(8-chloro-2-(2,3-difluorophenyl)quinolin-3-yl)ethyl)carbamoyl)benzoic acid | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C(=CC=C1)F)F)[C@H](C)NC(=O)C1=C(C(=O)O)C=CC=C1 | C25H17ClF2N2O3
